US06407254B1
2-[3′,5′-bis(α,α-dimethylbenzyl)-2′-hydroxyphenyl]benzotriazole;
mixtures of 2-[3′-t-butyl-2′-hydroxy-5′-(2-octyloxycarbonylethyl)phenyl)-5-chorobenzotriazole, 2-[3′-t-butyl-5′-(2-(2-ethylhexyloxy)carbonylethyl)-2′-hydroxyphenyl]-5-chlorobenzotriazole, 2-[3′-t-butyl-2′-hydroxy-5′-(2-methoxycarbonylethyl)phenyl]-5-chlorobenzotriazole, 2-[3′-t-butyl-2′-hydroxy-5′-(2-methoxycarbonylethyl)phenyl]benzotriazole, 2-[3′-t-butyl-2′-hydroxy-5′-(2-octyloxycarbonylethyl)phenyl]benzotriazole, 2-[3′-t-butyl-5′-(2-(2-ethylhexyloxy)carbonylethyl)-2′-hydroxyphenyl)benzotriazole, 2-(3′-dodecyl-2′-hydroxy-5′-methylphenyl)benzotriazole and 2-[3′-t-butyl-2′-hydroxy-5′-(2-iso-octyloxycarbonylethyl)phenyl]benzotriazole, 2,2′-methylene-bis[4-(1,1,3,3-tetramethylbutyl)-6-benzotriazol-2-yl-phenol]; esterification product of 2-[3′-t-butyl-5′-(2-methoxycarbonylethyl)-2′-hydroxyphenyl]-2H-benzotriazole with polyethylene glycol 300;

reactant | 2-[3′-t-butyl-2′-hydroxy-5′-(2-octyloxycarbonylethyl)phenyl)-5-chorobenzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OCCCCCCCC)N1N=C2C(=N1)C=CC(=C2)Cl)O | C27H36ClN3O3
reactant | 2-[3′-t-butyl-5′-(2-(2-ethylhexyloxy)carbonylethyl)-2′-hydroxyphenyl]-5-chlorobenzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OCC(CCCC)CC)N1N=C2C(=N1)C=CC(=C2)Cl)O | C27H36ClN3O3
reactant | 2-[3′-t-butyl-2′-hydroxy-5′-(2-methoxycarbonylethyl)phenyl]-5-chlorobenzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OC)N1N=C2C(=N1)C=CC(=C2)Cl)O | C20H22ClN3O3
reactant | 2-[3′-t-butyl-2′-hydroxy-5′-(2-methoxycarbonylethyl)phenyl]benzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OC)N1N=C2C(=N1)C=CC=C2)O | C20H23N3O3
reactant | 2-[3′-t-butyl-2′-hydroxy-5′-(2-octyloxycarbonylethyl)phenyl]benzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OCCCCCCCC)N1N=C2C(=N1)C=CC=C2)O | C27H37N3O3
reactant | 2-[3′-t-butyl-5′-(2-(2-ethylhexyloxy)carbonylethyl)-2′-hydroxyphenyl)benzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OCC(CCCC)CC)N1N=C2C(=N1)C=CC=C2)O | C27H37N3O3
reactant | 2-(3′-dodecyl-2′-hydroxy-5′-methylphenyl)benzotriazole | C(CCCCCCCCCCC)C=1C(=C(C=C(C1)C)N1N=C2C(=N1)C=CC=C2)O | C25H35N3O
reactant | 2-[3′-t-butyl-2′-hydroxy-5′-(2-iso-octyloxycarbonylethyl)phenyl]benzotriazole | C(C)(C)(C)C=1C(=C(C=C(C1)CCC(=O)OCCCCCC(C)C)N1N=C2C(=N1)C=CC=C2)O | C27H37N3O3
reactant | 2,2′-methylene-bis[4-(1,1,3,3-tetramethylbutyl)-6-benzotriazol-2-yl-phenol] | C(C1=C(C(=CC(=C1)C(CC(C)(C)C)(C)C)N1N=C2C(=N1)C=CC=C2)O)C2=C(C(=CC(=C2)C(CC(C)(C)C)(C)C)N2N=C1C(=N2)C=CC=C1)O | C41H50N6O2
product | 2-[3′,5′-bis(α,α-dimethylbenzyl)-2′-hydroxyphenyl]benzotriazole | CC(C1=CC=CC=C1)(C)C=1C(=C(C=C(C1)C(C1=CC=CC=C1)(C)C)N1N=C2C(=N1)C=CC=C2)O | C30H29N3O
